US04396546
D. Ethyl 2-amino-5-(m-fluorosulfonylbenzoyl)-3-thenoate
A solution of 175 g (0.33 mole) of ethyl 5-(m-fluorosulfonylbenzoyl)-2-(2,2,2-trichloroethoxycarbonylamino)-3-thenoate and 4200 ml of isopropyl alcohol was treated with 175 g of zinc dust at 75° to 77° C. over a 6-minute period. The mixture was held at gentle reflux for 50 minutes before a sudden onset of reaction, characterized by vigorous boiling of the solvent, was noticed. Heating was removed until the reaction subsided. Reflux was continued until all the urethane was consumed, as indicated by thin-layer chromatography in 30 percent acetone: 70 percent hexane. The mixture was filtered hot through Celite (diatomaceous earth) and the filtrate was evaporated slowly in an evaporating dish until about one liter of solvent had been removed. The solid was collected by filtration to yield 66 g (56 percent) of yellow solid, melting point 170° to 172° C. A second crop was obtained by further evaporation (melting point 153° to 168° C.), and this was recrystallized from isopropyl alcohol to yield 14.5 g (12 percent) of yellow solid, melting point 168° to 170° C.

reactant | ethyl 5-(m-fluorosulfonylbenzoyl)-2-(2,2,2-trichloroethoxycarbonylamino)-3-thenoate | 0.33 mole, 175 g | FS(=O)(=O)C=1C=C(C(=O)C2=CC(=C(S2)NC(=O)OCC(Cl)(Cl)Cl)C(=O)OCC)C=CC1 | C17H13Cl3FNO7S2
catalyst | zinc | 175 g | [Zn] | Zn
solvent | isopropyl alcohol | 4200 ml | C(C)(C)O | C3H8O
product | Ethyl 2-amino-5-(m-fluorosulfonylbenzoyl)-3-thenoate | 66 g, 56 percent | NC1=C(C=C(S1)C(C1=CC(=CC=C1)S(=O)(=O)F)=O)C(=O)OCC | C14H12FNO5S2
